US08476287B2
To a suspension of 60% sodium hydride (0.18 g) in dimethylformamide (22 mL), 4-hydroxy-2,3-dihydro-1H-inden-1-one (1.0 g) was added and the resultant reaction mixture was stirred at room temperature for 1 hour. Then, into the reaction mixture, a solution of benzyl bromide (1.3 g) in DMF (15 mL) was added dropwise at 80° C. and at the same temperature, the resultant reaction mixture was heated with stirring for 30 minutes. Further, to the reaction mixture, sodium hydride (0.09 g) and benzyl bromide (0.30 g) were further added and the resultant reaction mixture was heated with stirring for 2 hours. To the reaction mixture, a saturated aqueous solution of ammonium chloride was added and the resultant reaction mixture was extracted with ethyl acetate. The organic phase was washed with saturated saline and was dried over sodium sulfate anhydride. From the organic phase, the solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (eluate; n-hexane:ethyl acetate=5:1) to obtain 4-benzyloxy-2,3-dihydro-1H-inden-1-one (1.2 g) as a white solid. The obtained white solid was subjected to a reaction according to the method of (Example 124) <Step 2> to obtain the subject compound (1.1 g) as a white solid.

reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | 4-hydroxy-2,3-dihydro-1H-inden-1-one | 1.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | benzyl bromide | 1.3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 0.09 g | [H-].[Na+]
reactant | benzyl bromide | 0.30 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 22 mL | CN(C=O)C | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-benzyloxy-2,3-dihydro-1H-inden-1-one | 1.2 g | C(C1=CC=CC=C1)OC1=C2CCC(C2=CC=C1)=O | C16H14O2
